US09126948B2
Step 4. 1-{5-chloro-2-methoxy-4-methyl-3-[5-(methylsulfonyl)pyridin-3-yl]phenyl}ethanamine
A mixture of 1-{5-chloro-2-methoxy-4-methyl-3-[5-(methylsulfonyl)pyridin-3-yl]phenyl}ethanone (0.035 g, 0.099 mmol), ammonium acetate (0.08 g, 1 mmol) and 1.0 M sodium cyanoborohydride in tetrahydrofuran (THF) (0.25 mL, 0.25 mmol) in methanol (0.2 mL) and acetonitrile (0.2 mL) was heated at 65° C. overnight. The mixture was cooled to room temperature (rt), quenched with sat. NaHCO3 solution, and extracted with dichloromethane. The combined organic layers were dried over MgSO4 and concentrated to give the desired product, which was used in the next step directly (0.024 g, 69%). LCMS calculated for C16H17ClNO3S (M−NH2)+: m/z=338.1. found: 338.0.

reactant | 1-{5-chloro-2-methoxy-4-methyl-3-[5-(methylsulfonyl)pyridin-3-yl]phenyl}ethanone | 0.099 mmol, 0.035 g | ClC=1C(=C(C(=C(C1)C(C)=O)OC)C=1C=NC=C(C1)S(=O)(=O)C)C | C16H16ClNO4S
reactant | ammonium acetate | 1 mmol, 0.08 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 1.0 M | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 0.25 mmol, 0.25 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.2 mL | CO | CH4O
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
product | 1-{5-chloro-2-methoxy-4-methyl-3-[5-(methylsulfonyl)pyridin-3-yl]phenyl}ethanamine | ClC=1C(=C(C(=C(C1)C(C)N)OC)C=1C=NC=C(C1)S(=O)(=O)C)C | C16H19ClN2O3S
